US09303065B2
5B. (2-Morpholinothiazol-4-yl)methanol
A solution of methyl 2-morpholinothiazole-4-carboxylate (0.76 g, 3.33 mmol) in ethyl ether (20 mL) was treated portion wise over 10 min. with lithium aluminum hydride (0.38 g, 10.01 mmol). The mixture was stirred at −78° C. for 4 hours, then slowly treated with ethyl acetate (10 mL) and sat. Na2SO4 (20 mL). The mixture was allowed to warm up to RT, diluted with ethyl acetate, washed with sat. NaHCO3 (1×), brine (1×), dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified on silica gel chromatography (3×10 cm, 25% AcOEt/CH2Cl2 to 100% AcOEt) to give the title material as a beige solid (0.458 g) which was then distilled (bulb to bulb, 135-145° C./0.2 torr) and afforded the desired product (0.455 g, 68%) as a white solid. LC (Method F): 0.873 min. HRMS (ESI) calcd for C8H13N2O2S [M+H]+ m/z 201.07, found 201.2. 1H NMR (CDCl3, 400 MHz) δ ppm: 6.43 (s, 1H) 4.53 (d, J=3.9 Hz, 2H) 3.79 (m, 4H) 3.44 (m, 4H) 2.17 (s, 1H).

reactant | methyl 2-morpholinothiazole-4-carboxylate | 3.33 mmol, 0.76 g | O1CCN(CC1)C=1SC=C(N1)C(=O)OC | C9H12N2O3S
reactant | lithium aluminum hydride | 10.01 mmol, 0.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Na2SO4 | 20 mL | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (2-Morpholinothiazol-4-yl)methanol | 0.458 g | O1CCN(CC1)C=1SC=C(N1)CO | C8H12N2O2S
